US07863283B2
(RS)-S-[3-({[4-(Cyclopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)-phenyl]-S-ethylsulphoximide
According to GWP 6, the conversion of (RS)-S-[3-({[4-(cyclopropylamino)-6-methoxy-quinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-ethylsulphoximide (47 mg, 0.097 mmol) and chromatographic purification (silica gel, dichloromethane/methanol: 0→30% methanol) gives the desired product in 92% yield (37 mg).

reactant | (RS)-S-[3-({[4-(cyclopropylamino)-6-methoxy-quinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-ethylsulphoximide | 0.097 mmol, 47 mg | C1(CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)CC | C24H28N4O5S
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-S-[3-({[4-(Cyclopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)-phenyl]-S-ethylsulphoximide | 92% yield | C1(CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1C=C(C=CC1)S(=O)(=N)CC | C21H24N4O3S
